US07790715B2
b) 2-[2-(2-Methoxyphenyl)ethoxy]ethyl toluenesulphonate
The solution of 7.50 g of 2-[2-(2-methoxyphenyl)ethoxy]ethanol in 75 ml of dichloromethane is admixed successively % with 8.5 ml of pyridine, 0.519 g of 4-dimethylaminopyridine and 9.10 g of p-toluenesulphonyl chloride, and stirred at room temperature over 16 hours. The reaction mixture is washed with brine (2×200 ml). The organic phase is dried with sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.26 (1:2 EtOAc-heptane); Rt=5.02.

reactant | 2-[2-(2-methoxyphenyl)ethoxy]ethanol | 7.50 g | COC1=C(C=CC=C1)CCOCCO | C11H16O3
reactant | pyridine | 8.5 ml | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulphonyl chloride | 9.10 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.519 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-[2-(2-Methoxyphenyl)ethoxy]ethyl toluenesulphonate | C=1(C(=CC=CC1)S(=O)(=O)OCCOCCC1=C(C=CC=C1)OC)C | C18H22O5S
